US07064124B2
N-(Pyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
3-Aminopyridine (0.424 g, 4.492 mmol), triethylamine (0.440 g, 4.342 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.735 g, 4.342 mmol) were added to a methylene chloride solution (200 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (1.120 g, 2.995 mmol) and the resulting solution was stirred at room temperature for 6 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to obtain the titled compound (0.710 g, 1.576 mmol, 53%).

reactant | 3-Aminopyridine | 4.492 mmol, 0.424 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 4.342 mmol, 0.440 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 4.342 mmol, 0.735 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 2.995 mmol, 1.120 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(Pyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 1.576 mmol, 0.710 g, 53% | N1=CC(=CC=C1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C24H22N2O7
